US09102669B2
6-Fluoro-1-(piperidin-4-yl)-1H-indazole (260 mg, 1.19 mmol), 3-chloro-6-(1-methyl-1H-pyrazol-4-yl)pyridazine (230 mg, 1.19 mmol) and DIEA (269 uL) in DMSO (4 ml) under Ar were heated in a microwave reactor at 200° C. for 1 hour. After removal of most of the DMSO in vacuo, water (10 mL) was added and the aqueous layer extracted several times with CHCl3 (50 mL). The organic layer was washed with brine, dried (MgSO4), decolorized with NORITE, filtered and the solvent removed in vacuo. The resulting residue was purified via ISCO column chromatography (Amine “Redisep” 14 gram column eluded 0-100% EtOAc/hexane over 20 column volumes), then re-crystallized from DCM with heptanes to yield 6-fluoro-1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-1H-indazole.

reactant | 6-Fluoro-1-(piperidin-4-yl)-1H-indazole | 1.19 mmol, 260 mg | FC1=CC=C2C=NN(C2=C1)C1CCNCC1 | C12H14FN3
reactant | 3-chloro-6-(1-methyl-1H-pyrazol-4-yl)pyridazine | 1.19 mmol, 230 mg | ClC=1N=NC(=CC1)C=1C=NN(C1)C | C8H7ClN4
reactant | DIEA | 269 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
product | 6-fluoro-1-(1-(6-(1-methyl-1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-1H-indazole | FC1=CC=C2C=NN(C2=C1)C1CCN(CC1)C=1N=NC(=CC1)C=1C=NN(C1)C | C20H20FN7
